US06492348B1
(2S,3S,4R,5R)-2-(5-tert-Butyl-[1,3,4]oxadiazol-2-yl)-5-[6-(4-chloro-2-fluro-phenylamino)-purin-9-yl]-tetrahydro-furan-3,4-diol
9-{(3aR,4R,6S,6aR)-6-[5-(tert-butyl)-1,3,4-oxadiazol-2-yl]-2,2-dimethyltetrahydrofuro[3,4-d][1,3]dioxol-4-yl}-N-(4-chloro-2-fluorophenyl)-9H -purin-6-amine (2.35 g) was dissolved in trifluoroacetic acid (20 ml) and water (2 ml) with ice bath cooling, and the mixture allowed to stand at 4° C. for 17 h. The mixture was poured slowly into ice cold saturated aqueous sodium bicarbonate (400 ml) and extracted with ethyl acetate (3×200 ml). The organic layers were washed with brine, dried (MgSO4) and evaporated in vacuo to give the title compound as a buff solid (2.30 g).

reactant | 9-{(3aR,4R,6S,6aR)-6-[5-(tert-butyl)-1,3,4-oxadiazol-2-yl]-2,2-dimethyltetrahydrofuro[3,4-d][1,3]dioxol-4-yl}-N-(4-chloro-2-fluorophenyl)-9H -purin-6-amine | 2.35 g | C(C)(C)(C)C1=NN=C(O1)[C@H]1O[C@H]([C@H]2[C@H]1OC(O2)(C)C)N2C1=NC=NC(=C1N=C2)NC2=C(C=C(C=C2)Cl)F | C24H25ClFN7O4
reactant | water | 2 ml | O | H2O
solvent | trifluoroacetic acid | 20 ml | FC(C(=O)O)(F)F | C2HF3O2
product | (2S,3S,4R,5R)-2-(5-tert-Butyl-[1,3,4]oxadiazol-2-yl)-5-[6-(4-chloro-2-fluro-phenylamino)-purin-9-yl]-tetrahydro-furan-3,4-diol | C(C)(C)(C)C1=NN=C(O1)[C@H]1O[C@H]([C@@H]([C@@H]1O)O)N1C2=NC=NC(=C2N=C1)NC1=C(C=C(C=C1)Cl)F | C21H21ClFN7O4
